US05688815
0.266 g of 5-benzyloxy-6-[(4-fluoro-phenyl)-hydroxy-methyl]-1-(2-hydroxy-ethyl)-4-oxo-1,4-dihydro-pyridine-2-carboxylic acid are dissolved in 20 ml of methanol and hydrogenated at room temperature over 0.05 g of palladium on carbon (5%) until 1 mol of H2 per mol of starting material has been taken up. The catalyst is removed by filtration and the flitrate is concentrated to dryness by evaporation using a rotary evaporator. Recrystallisation from methanol yields 6-[(4-fluoro-phenyl)-hydroxy-methyl]-7-hydroxy-3,4-dihydro-pyrido[2,1-c]-[1,4]oxazine-1,8-dione in the form of colourless crystals. M.p.: 221°-225° C.

reactant | 5-benzyloxy-6-[(4-fluoro-phenyl)-hydroxy-methyl]-1-(2-hydroxy-ethyl)-4-oxo-1,4-dihydro-pyridine-2-carboxylic acid | 0.266 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1C(O)C1=CC=C(C=C1)F)CCO)C(=O)O)=O | C22H20FNO6
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | 6-[(4-fluoro-phenyl)-hydroxy-methyl]-7-hydroxy-3,4-dihydro-pyrido[2,1-c]-[1,4]oxazine-1,8-dione | FC1=CC=C(C=C1)C(C1=C(C(C=C2C(OCCN21)=O)=O)O)O | C15H12FNO5
